US05037883
PREPARATION OF MA-Ala-Val-Ala-ONp (15)
From 3.6 g of MA-Ala-Val-Ala-OH (0.012 mol), 1.5 g (0.012 mol) of p-nitrophenol, and 2.5 g (0.0125 mol) of dicyclohexylcarbodiimide in 50 ml of tetrahydrofuran was prepared 2.0 g (40% yield) of MA-Ala-Val-Ala ONp; m.p. 174°-6° C. Recrystalized from ethylacetate/hexane. Molar extinction coefficient, ε274 nm =9300 (DMSO).

reactant | Ala-Val-Ala-OH | 0.012 mol | N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)O | C11H21N3O4
reactant | p-nitrophenol | 0.012 mol, 1.5 g | C1=CC(=CC=C1[N+](=O)[O-])O | C6H5NO3
reactant | dicyclohexylcarbodiimide | 0.0125 mol, 2.5 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | Ala-Val-Ala-ONp | N[C@@H](C)C(=O)N[C@@H](C(C)C)C(=O)N[C@@H](C)C(=O)OC1=CC=C([N+](=O)[O-])C=C1 | C17H24N4O6
